US07781478B2
Cyclopropanecarboxylic acid [4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-ylethynyl)-phenyl]-amide (60 mg, 0.16 mmol), prepared as described in Example 1Za, is stirred in BBr3 (800 μL, 1M in CH2Cl2, 0.8 mmol) at room temperature for 1 hour. The reaction mixture is quenched with H2O, and is extracted with CH2Cl2. The organic layer is dried and concentrated. Purification by silica chromatography (EtOAC) gives impure product. This crude product is triturated with 1/1 hexanes/acetone to yield cyclopropanecarboxylic acid [4-(3-cyano-1-ethyl-6-hydroxy-1H-indol-2-ylethynyl)-phenyl]-amide (32 mg, 54%) as an off-white solid.

reactant | Cyclopropanecarboxylic acid [4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-ylethynyl)-phenyl]-amide | 0.16 mmol, 60 mg | C(#N)C1=C(N(C2=CC(=CC=C12)OC)CC)C#CC1=CC=C(C=C1)NC(=O)C1CC1 | C24H21N3O2
reactant | BBr3 | 0.8 mmol, 1M, 800 μL | B(Br)(Br)Br | BBr3
product | cyclopropanecarboxylic acid [4-(3-cyano-1-ethyl-6-hydroxy-1H-indol-2-ylethynyl)-phenyl]-amide | 32 mg, 54% | C(#N)C1=C(N(C2=CC(=CC=C12)O)CC)C#CC1=CC=C(C=C1)NC(=O)C1CC1 | C23H19N3O2
